US07345056B2
12-(4-Chloro-benzenesulfonyl)-5-(4-isopropyl-phenyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene MS (ES) m/e 456.0 (M+H)+
Prepared as described in Example 5 using 4-isopropylphenylhydrazine and 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one which was prepared as described in Example 34.

reactant | 4-isopropylphenylhydrazine | C(C)(C)C1=CC=C(C=C1)NN | C9H14N2
reactant | 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C(C(CC1CCC2)=O)=CO | C15H16ClNO4S
product | 12-(4-Chloro-benzenesulfonyl)-5-(4-isopropyl-phenyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NN(C3CC1CCC2)C2=CC=C(C=C2)C(C)C | C24H26ClN3O2S
